US07335658B2
6-[4-(3-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 3-fluoro-2-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (31% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.97, 7.65-7.59, 7.29, 7.12, 6.99, 4.05-3.99, 3.89-3.72, 3.54, 3.35, 1.50, 0.76-0.71, 0.48-0.42, 0.10-0.05.

reactant | 3-fluoro-2-trifluoromethylbenzoyl chloride | FC=1C(=C(C(=O)Cl)C=CC1)C(F)(F)F | C8H3ClF4O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(3-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C(=CC=C1)F)C(F)(F)F)=O | C22H23F4N5O2
